US07737166B2
7-[(3S)-3-Benzyloxycarbonylaminopiperidin-1-yl]-2-tert-butyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-74)
Triethylamine (83 μl, 598 μmol) and (3S)-3-benzyloxycarbonylaminopiperidine (70 mg, 298 μmol) were added to a dimethyl sulfoxide (3.8 ml) solution of 2-tert-butyl-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-72) (77 mg, 249 μmol), followed by stirring at 90° C. for 11 hours. After cooling, the reaction liquid was diluted with ethyl acetate, this was washed with saturated brine and 1 N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=8:1→4:1, v/v) to obtain the entitled compound (98 mg, 75%) as a colorless oil.

reactant | Triethylamine | 598 μmol, 83 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-benzyloxycarbonylaminopiperidine | 298 μmol, 70 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CNCCC1 | C13H18N2O2
reactant | dimethyl sulfoxide | 3.8 ml | CS(=O)C | C2H6OS
reactant | 2-tert-butyl-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 249 μmol, 77 mg | C(C)(C)(C)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C19H17FN2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[(3S)-3-Benzyloxycarbonylaminopiperidin-1-yl]-2-tert-butyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 98 mg, 75% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CN(CCC1)C=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)C2=CC=CC=C2 | C32H34N4O3
